US04182733
20 g of vinyl chloride and 20 g of chlorine are passed into 20 g of phosphoric acid monopropyl ester-dichloride, the reaction temperature being kept between 0° C. and +10° C. by cooling. Working up by distillation gives 16 g (=62.5% of theory) of phosphonic acid (1,2-dichloroethyl) ester-dichloride, which has a boiling range of 56°-60° C./0.1 mm Hg.

reactant | vinyl chloride | 20 g | C(=C)Cl | C2H3Cl
reactant | chlorine | 20 g | ClCl | Cl2
reactant | phosphoric acid monopropyl ester-dichloride | 20 g | [Cl-].[Cl-].C(CC)OP(O)(O)=O
product | phosphonic acid (1,2-dichloroethyl) ester-dichloride | 16 g, 62.5% | [Cl-].[Cl-].ClC(CCl)OP(O)=O | InChI=1S/C2H5Cl2O3P.2ClH/c3-1-2(4)7-8(5)6;;/h2,8H,1H2,(H,5,6);2*1H/p-2
